US05278186
A mixture of ethyl 6-chloro-4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-2H-1-benzopyran-3-carboxylate (2.0 g), 2N NaOH (11 ml) and ethanol (20 ml) was heated at 70° C. for 10 minutes. Then, the mixture was made acid with 2N HCl and extracted with ethyl acetate. The extract was washed with water and dried (MgSO4), and then, the solvent was removed to obtain 6-chloro-4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid as powders (1.3 g, 69.1%).

reactant | ethyl 6-chloro-4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-2H-1-benzopyran-3-carboxylate | 2.0 g | ClC=1C=CC2=C(C(=C(C(O2)=O)C(=O)OCC)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C1 | C26H29ClO5
reactant | NaOH | 2N, 11 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-chloro-4-(3,5-di-tert-butyl-4-hydroxyphenyl)-2-oxo-2H-1-benzopyran-3-carboxylic acid | 1.3 g, 69.1% | ClC=1C=CC2=C(C(=C(C(O2)=O)C(=O)O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C1 | C24H25ClO5
